US09388153B2
To a solution of isopropyl 2-(3-((7-(3-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-ylidene)amino)phenoxy)acetate (25 mg, 0.057 mmol) and methanol (2 mL) was added sodium triacetoxyborohyride (12 mg, 0.057 mmol) at 0° C. The solution was stirred for 4 hours at room temperature. The reaction was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (4 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 9 mg (36%) of isopropyl 2-(3-((7-(3-fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetate.

reactant | isopropyl 2-(3-((7-(3-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-ylidene)amino)phenoxy)acetate | 0.057 mmol, 25 mg | FC=1C=C(C=CC1)C1=CC=C2CCCC(C2=C1)=NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C27H26FNO3
reactant | sodium triacetoxyborohyride | 0.057 mmol, 12 mg | [B-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | isopropyl 2-(3-((7-(3-fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetate | 9 mg, 36% | FC=1C=C(C=CC1)C1=CC=C2CCCC(C2=C1)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C27H28FNO3
